Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
ondansetron
 
Attending: ___
 
Chief Complaint:
vomiting
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ w/ PMH which includes supraglottic 
larygneal squamous cell carcinoma dx ___, undergoing 
chemotherapy and radiation s/p G-tube placement on ___ for 
nutritional support. He presents to the hospital again with 
recurrent N/V following his most recent discharge on ___.   He 
had previously been on a cisplatin chemotherapy regimen which 
was changed to ___ over the past month with the hope 
that it would improve his n/v so that he would not need to be 
admitted.  Following his most recent admission he was offered 
daily visits at ___ clinic to review symptoms and to 
recieve IVF if needed.  Pt and wife report he usually has N/V 
about five days after chemotherapy.  Following his most recent 
chemo on ___ At home he has been suffering from multiple 
episodes of N/V starting the night of ___.  He would vomit up 
clear fluid each time he tried to take his feeds.  He called 
into clinic and was recommended to go to the ED.  Denies 
diarrhea, melena, hematochezia. No F/C. Has had chronic cough 
since cancer diagnosis, denies recent change. Denies CP, SOB, 
DOE with walking. No dysuria.  
 
In the ED his initial vitals were 98.5 81 135/71 16 100% RA.  
The ED providers had encouraged him to consider the possibility 
of returning home with ___ and IVF.  However, the patient stated 
that he did not feel safe at home.  He was given Ativan and 
Compazine to control his nausea and was admitted to OMED. 
        

Review of Systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies blurry vision, diplopia, loss of vision, 
photophobia. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies chest pain or tightness, palpitations, lower 
extremity edema. Denies cough, shortness of breath, or wheezes. 
Denies nausea, vomiting, diarrhea, constipation, abdominal pain, 
melena, hematemesis, hematochezia. Denies dysuria, stool or 
urine incontinence. Denies arthralgias or myalgias. Denies 
rashes or skin breakdown. No numbness/tingling in extremities. 
All other systems negative.
 
Past Medical History:
PAST ONCOLOGIC HISTORY:  
- ___: noticed hoarseness  
- Seen by Dr. ___ in ___ ENT in ___. Endoscopy  

showed a large mass in the supraglottic larynx.  
- ___: Biopsy showed squamous cell carcinoma in the  
supraglottic area. There was also involvement of the epiglottis  

and the patient underwent further staging scan including a CT  
and a PET scan.  
- ___: PET scan confirmed the FDG-avid lesions, no  
regional lymph nodes, but there was also some pre-epiglottic  
extension and also uptake in the sixth rib and L4 of uncertain  
significance  
- ___: C1D1 Cisplatin with concurrent radiation  

PAST MEDICAL HISTORY:  
Hemolytic anemia ___ s/p rituximab 
Elevated PTT with positive inhibitor screen and +LA 

 
Social History:
___
Family History:
Sister had breast and pancreatic cancer.  
 
Physical Exam:
=======================
ADMISSION EXAM
=======================
Vitals: T:99 BP:120/63 HR:99 RR:16 02 sat:99%RA  
GENERAL: NAD, comfortable in chair 
HEENT: Sclera anicteric, erythema along anterior neck from XRT, 
dry MM, exudate near uvuela 
CARDIAC: RRR, no m,r,g  
LUNG: CTABL  
ABDOMEN: soft, NT, ND BS+, PEG in place erythema around port 
site with purulent drainage  
EXTREMITIES: trace ___ edema, no clubbing 
PULSES: 2+ radial/DP pulses 
NEURO: AAOx3, normal gait, no focal deficits  

=======================
DISCHARGE EXAM
=======================
Vitals: 99.5 115/62 85 20 100% RA
GENERAL: NAD, comfortable
HEENT: Sclera anicteric, erythema along anterior neck from XRT, 
dry MM, significant exudates with bloody saliva along soft 
palate 
CARDIAC: RRR, no m,r,g  
LUNG: CTAB  
ABDOMEN: soft, NT, ND BS+, erythema surrounding g-tube has 
improved. No discharge. 
EXTREMITIES: trace ___ edema, no clubbing 
PULSES: 2+ radial/DP pulses 
NEURO: AAOx3, no focal deficits  
 
Pertinent Results:
=======================
ADMISSION LABS
=======================

___ 09:55AM   WBC-2.1* RBC-3.25* HGB-10.8* HCT-32.1* 
MCV-99* MCH-33.2* MCHC-33.7 RDW-16.8*
___ 09:55AM   NEUTS-77.7* LYMPHS-13.1* MONOS-7.0 EOS-1.5 
BASOS-0.7
___ 08:40AM   ___ ___
___ 09:55AM   GLUCOSE-87 UREA N-11 CREAT-0.7 SODIUM-139 
POTASSIUM-4.5 CHLORIDE-98 TOTAL CO2-34* ANION GAP-12
___ 09:55AM   ALT(SGPT)-25 AST(SGOT)-23 ALK PHOS-84 TOT 
BILI-1.0
___ 09:55AM   LIPASE-11
___ 09:55AM   ALBUMIN-3.7

=======================
DISCHARGE LABS
=======================
___ 07:15AM BLOOD WBC-2.9* RBC-3.03* Hgb-10.2* Hct-30.0* 
MCV-99* MCH-33.8* MCHC-34.1 RDW-16.7* Plt ___
___ 07:15AM BLOOD Glucose-107* UreaN-11 Creat-0.6 Na-135 
K-4.4 Cl-96 HCO3-31 AnGap-12
___ 07:15AM BLOOD Calcium-9.0 Phos-4.1 Mg-1.9

=======================
STUDIES
=======================
CXR
There is a non-specific opacity overlying overlying the heart on 
the lateral
view. Short term followup CXR is recommended if suspicion for an 
acute
infection persists. 
 
Brief Hospital Course:
Mr. ___ is a ___ w/ h/o laryngeal ca who unfortunately is 
being admitted to the hospital with N/V and dehydration after a 
recent administration of chemotherapy.  
 
#. N/V- Patient's repeated presentations likely related to 
chemotherapy induced nausea and vomiting which has persisted 
despite a change in chemotherapy regiment o ___.  His 
nausea and vomiting had largely resolved by the time he was 
admitted to the oncology floor.  He was started with a regimen 
of IV compazine/ativan with zyprexa.  Ativan and zyprexa were 
the most effective agents.  The patient was transitioned to a PO 
regimen which was given through the G tube.  He was unable to 
tolerate PO because of throat pain but his tube feeds were 
successfully restarted.  However, he had residual nausea with 
around 1 emesis daily over the next two days.  His TF rate was 
decreased from 120cc/h to 105cc/h and this issue resolved by 
time of discharge even though he never had high residuals.  
 
#. Mucositis - Patient had significantly increased throat pain 
this admission with diffuse exudates across his soft palate down 
into the throat.  This was likely triggered by his XRT.  
However, the patient had previously been able to tolerate food 
or medications PO but was unable to do so this admission because 
of the pain.  He was treated with local therapy using magic 
mouthwash, nystatin, and caphosol.  He was sometimes reluctant 
to take these therapies because of the pain associated with 
them.  He was given oxycodone and tyelnol through his G tube for 
the pain.  The remainder of his PO medications were given 
through the G tube due to throat pain.  
 
#. Fever - The patient had a single temperature of 100.5.  Blood 
cultures, UA, and CXR were unrevealing for a source of 
infection.  The patient had a G tube cellulitis which appeared 
to be responding to treatment.  His fever was attributed to the 
above mucositis. 

#. Fall - The patient experienced a mechanical fall while trying 
to reach the bathroom.  He was on significant amounts of 
oxycodone, zyprexa, and IV ativan at the time which were thought 
to be the precipitant.  He had head strike without LOC and had 
no neurologic defecits on exam some a CT head was not obtained.  
       

# G-tube site infection/cellulits- patient had been on 
outpatient treatment with Amox/Clav.  He was continued with 
Amp/Sulbactam upon arrival and transitioned back to Amox/Clav 
when his vomiting had improved and he was able to tolerate 
medications by NG tube. 
 
#. Laryngeal ca- Regimen recently changed to ___.  
Consider changing his antiemetic regimen following further 
chemotherapy.  

TRANSITIONAL ISSUES:
-balance between oversedation and adequate nausea control 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. OLANZapine (Disintegrating Tablet) 2.5 mg PO TID:PRN nausea 
2. Lorazepam 0.5-1 mg PO Q4H:PRN nausea, anxiety 
3. Maalox/Diphenhydramine/Lidocaine 30 mL PO QIDACHS mucositis 
4. Nystatin Oral Suspension 5 mL PO QID 
5. Pantoprazole 20 mg PO DAILY 
6. OxycoDONE-Acetaminophen Elixir ___ mL PO Q6H:PRN pain 
7. Prochlorperazine 10 mg PO Q6H 
8. Ranitidine 150 mg PO DAILY 
9. Amoxicillin-Clavulanate Susp. 500 mg PO Q12H 

 
Discharge Medications:
1. Amoxicillin-Clavulanate Susp. 500 mg PO Q12H 
2. Lorazepam 0.5-1 mg PO Q4H:PRN nausea, anxiety 
3. Maalox/Diphenhydramine/Lidocaine 30 mL PO QIDACHS mucositis 
4. Nystatin Oral Suspension 5 mL PO QID 
5. OLANZapine (Disintegrating Tablet) 2.5 mg PO TID:PRN nausea 
6. Prochlorperazine 10 mg PO Q6H 
7. OxycoDONE-Acetaminophen Elixir ___ mL PO Q6H:PRN pain 
RX *oxycodone-acetaminophen [Roxicet] 5 mg-325 mg/5 mL ___ ml 
by mouth or g-tube every six (6) hours Disp #*500 Milliliter 
Refills:*0
8. Pantoprazole 20 mg PO DAILY 
9. Ranitidine 150 mg PO DAILY 
10. Senna 8.6 mg PO BID constipation 
hold for loose stools
 
RX *sennosides [senna] 8.6 mg 1 capsule by mouth twice a day 
Disp #*60 Capsule Refills:*0
11. Docusate Sodium (Liquid) 100 mg PO BID 
hold for loose stools 
RX *docusate sodium 100 mg 1 capsule by mouth twice a day Disp 
#*60 Capsule Refills:*0
12. Bisacodyl 10 mg PR HS:PRN constipation 
hold for loose stool 
RX *bisacodyl 10 mg 1 suppository(s) rectally at bedtime Disp 
#*30 Suppository Refills:*0
13. Caphosol 30 mL ORAL QID 
RX *saliva substitution combo no.2 [Caphosol]   swish and spit 
30ml four times a day Disp #*900 Milliliter Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Nausea and vomiting, induced by chemotherapy
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you here at ___. You were 
admitted with vomiting that was likely caused by chemotherapy.  
You were treated with nausea medications to good effect.  We 
decreased the rate of your tube feeds at home to help reduce 
your nausea. 
 
Followup Instructions:
___